### PR TITLE
Dagger Monoidal Structure

### PR DESCRIPTION
**Pull request by chai770**
A file on dagger structures in monoidal categories. This file is part of the project to formalize parts of the book Categories for Quantum Theory by Heunen and Vicary.

### CODE REVIEW

File: UniMath/CONTENTS.md [hunk 1]
```diff
@@ -869,6 +869,7 @@ The packages and files are listed here in logical order: each file depends only
    - [DaggerCategories/Univalence.v](CategoryTheory/DaggerCategories/Univalence.v)
    - [DaggerCategories/Functors.v](CategoryTheory/DaggerCategories/Functors.v)
    - [DaggerCategories/Transformations.v](CategoryTheory/DaggerCategories/Transformations.v)
+   - [Monoidal/DaggerMonoidal.v](CategoryTheory/Monoidal/DaggerMonoidal.v)
```
Comment (nmvdw) [inline UniMath/CONTENTS.md:872]: The `CONTENTS.md` file can be deleted. This will solve the merge conflict.

File: UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v [hunk 2]
```diff
@@ -0,0 +1,371 @@
...
+Require Import UniMath.CategoryTheory.DaggerCategories.Unitary.
+Require Import UniMath.CategoryTheory.Monoidal.CategoriesForQuantum.
+Require Import UniMath.CategoryTheory.Limits.BinBiproducts.
+
+Import MonoidalNotations.
+
+Local Open Scope cat.
+Local Open Scope moncat.
+
+Notation "{ f }_ C ^†" := (dagger_category_to_dagger C _ _ f).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v:39]: It would be good to put this notation in a scope.

File: UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v [hunk 3]
```diff
@@ -0,0 +1,371 @@
...
+    {C : dagger_category}
+    (Z : Zero C)
+    {A B : C}
+    (f : A --> B)
+    : UU
+    := ∑(K : C)(k : K --> A)(k1 : is_isometry k), is_dagger_kernel Z k k1 f.
+  
+  (* Accessors for dagger kernel *)
+
+  Definition ker_obj
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v:160]: Would this one be better as a coercion?

File: UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v [hunk 4]
```diff
@@ -0,0 +1,371 @@
...
+    Proof.
+    exact (pr2 (pr222 T)).
+    Qed.
+
+  Lemma zero_dag
+    {C : dagger_category}
+    (Z : Zero C)
+    {A B : C}
+    : { ZeroArrow Z A B }_ C ^† = ZeroArrow Z B A.
+  Proof.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v:212]: The indenting is inconsistent between this lemma and the previous definition

**Review by nmvdw — APPROVED** [review]
lgtm

File: UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v (hunk 2 above)
Comment (chai770) [reply UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v:39]: I'm a bit unsure how to do this. Would I have to go back to the file where the notation is introduced and change that file or should I create a new scope?

Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v:39]: It would be fine to put it in the scope `cat`. If this notation is already introduced, then it is not necessary to define it here.

Comment (chai770) [reply UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v:39]: Ok, so the line should be like this right?

`Notation "{ f }_ C ^†" := (dagger_category_to_dagger C _ _ f): cat.`

Also the notation is already introduced in DaggerCategories/Categories.v, but if I don't have this line above included for some reason it doesn't recognize the notation.

Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v:39]: > Ok, so the line should be like this right?
> 
> `Notation "{ f }_ C ^†" := (dagger_category_to_dagger C _ _ f): cat.`

Yes.

> Also the notation is already introduced in DaggerCategories/Categories.v, but if I don't have this line above included for some reason it doesn't recognize the notation.

This is because the notation is defined in a section, and it only is important if it is defined outside a section.

Comment (chai770) [reply UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v]: Ah ok thanks, I've made the change.

File: UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v [hunk 5]
```diff
@@ -0,0 +1,371 @@
...
+Require Import UniMath.CategoryTheory.DaggerCategories.Unitary.
+Require Import UniMath.CategoryTheory.Monoidal.CategoriesForQuantum.
+Require Import UniMath.CategoryTheory.Limits.BinBiproducts.
+
+Import MonoidalNotations.
+
+Local Open Scope cat.
+Local Open Scope moncat.
+
+Notation "{ f }_ C ^†" := (dagger_category_to_dagger C _ _ f): cat.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v:39]: It might be better to put this notation in `UniMath.CategoryTheory.DaggerCategories.Categories.v`, because then it is available whenever one uses dagger categories. For the remainder, this PR is ready to be merged.

Comment (chai770) [reply UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v:39]: Yes, that sounds good. I've made the change in the file `UniMath.CategoryTheory.DaggerCategories.Categories.v` but I am still getting an error message of `Syntax Error: Lexer: Undefined token` when removing the notation line from this current file. This error occurs just when `^†` is introduced; maybe this could be fixed by creating a module for the notation?

Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v:39]: Could you add the notation `Notation "{ f }_ C ^†" := (dagger_category_to_dagger C _ _ f): cat.` at the end of the file `DaggerCategories.Categories.v`? It currently only is introduced in a section, and then it is only available in that section. By introducing it outside the section, it becomes available globally.

Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v]: Interestingly enough, I do not get such error. It could be related to the version of Coq/Rocq (I have 9.0.0).

Comment (chai770) [reply UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v]: I'm able to compile it fine when I open it with `coqide UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v` on terminal. But if I copy and paste the contents of this file exactly into a new file in the same IDE, I get the `Syntax Error: Lexer: Undefined token` again. 

In the new file I also get an error if I try `Require Import UniMath.CategoryTheory.Monoidal.DaggerMonoidal.` with the error being:

`Cannot find a physical path bound to
logical path
UniMath.CategoryTheory.Monoidal.DaggerMonoidal.
`

Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v]: @arnoudvanderleer do you have an idea?

Comment (arnoudvanderleer) [reply UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v]: Okay, so your coqide can process the file. But just to be sure: can you also _compile_ it? I.e. can you generate (`_build/default/`)`UniMath/CategoryTheory/Monoidal/DaggerMonoidal.glob` using `dune` or `coqc`? You can only import the (updated) contents of a rocq file after it has been compiled into a derived `.glob` file.

Comment (chai770) [reply UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v]: Yes, I ran `make clean` and then `make` to compile everything again, and I do generate a DaggerMonoidal `.glob`, `.v`, `.vok`, `.vos` files. Actually I think the problem was just that I was opening coqide without using this branch as a root, because I am no longer getting the same error. That was probably just my mistake then, sorry about that.

Comment (nmvdw) [reply UniMath/CategoryTheory/Monoidal/DaggerMonoidal.v]: So everything is fine now?
